US04483987
8-(2-bromoethyl)-7-phenyl-1,2,4-triazolo[2,3-c]pyrimidine-5-amine
To 2.8 g of 8-(2-ethoxylethyl)-7-phenyl-1,2,4-triazolo[2,3-c]pyrimidine-5-amine dissolved in 30 ml of chloroform was added 5 ml of boron tribromide (1 M solution in dichloromethane) at room temperature with stirring. After 8 hours the complex was decomposed by the addition of ice water. The phases were separated and the aqueous layer was adjusted to pH 8 with potassium carbonate, then extracted three times with chloroform. The chloroform extract was added to the original chloroform layer, and the resultant solution was washed with water and dried over sodium sulfate. Removal of chloroform followed by chromatography on Porosil afforded, in order of elution, title compound (m.p. 163°-164°), and title compound Example 1, (m.p. 193°-194°)

reactant | 8-(2-ethoxylethyl)-7-phenyl-1,2,4-triazolo[2,3-c]pyrimidine-5-amine | 2.8 g | O(CC)CCC=1C=2N(C(=NC1C1=CC=CC=C1)N)N=CN2 | C15H17N5O
reactant | boron tribromide | 1 M, 5 ml | B(Br)(Br)Br | BBr3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-(2-bromoethyl)-7-phenyl-1,2,4-triazolo[2,3-c]pyrimidine-5-amine | BrCCC=1C=2N(C(=NC1C1=CC=CC=C1)N)N=CN2 | C13H12BrN5
